US07601711B2
[5-(4-Isopropyl-piperazine-1-carbonyl)-1-(4-trifluoromethyl-phenyl)-1H-indol-2-yl]-morpholin-4-yl-methanone
The title compound was synthesized in analogy to example 116, from [5-(4-isopropyl-piperazine-1-carbonyl)-1H-indol-2-yl]-morpholin-4-yl-methanone and 4-iodobenzotrifluoride.

reactant | [5-(4-isopropyl-piperazine-1-carbonyl)-1H-indol-2-yl]-morpholin-4-yl-methanone | C(C)(C)N1CCN(CC1)C(=O)C=1C=C2C=C(NC2=CC1)C(=O)N1CCOCC1 | C21H28N4O3
reactant | 4-iodobenzotrifluoride | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
product | [5-(4-Isopropyl-piperazine-1-carbonyl)-1-(4-trifluoromethyl-phenyl)-1H-indol-2-yl]-morpholin-4-yl-methanone | C(C)(C)N1CCN(CC1)C(=O)C=1C=C2C=C(N(C2=CC1)C1=CC=C(C=C1)C(F)(F)F)C(=O)N1CCOCC1 | C28H31F3N4O3
